US07105509B2
7-Hydroxybenzopyran-4one (162 mg) (J. C. Jaen et al, J. Med. Chem., 1991, 34, 248), triethylamine (0.3 ml), acetonitrile (5 ml) and N-phenyltriflimide (450 mg) were stirred together at room temperature for 20 min, evaporated in vacuo and purified by flash column chromatography to give 7-(trifluoromethanesulfonyl)oxybenzopyran-4-one (202 mg, 69%).

reactant | 7-Hydroxybenzopyran-4one | 162 mg | OC1=CC2=C(C(C=CO2)=O)C=C1 | C9H6O3
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltriflimide | 450 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-(trifluoromethanesulfonyl)oxybenzopyran-4-one | 202 mg, 69% | FC(S(=O)(=O)OC1=CC2=C(C(C=CO2)=O)C=C1)(F)F | C10H5F3O5S
